US04027027
Reaction of 47 g of 2-benzylamino-2-methyl-1-propanol, 13.3 g of sodium hydride dispersion and 23.5 g of 6-chloronicotinic acid amide in 300 ml of dimethylformamide analogously to Example 1(a) gives 6-(2-benzylamino-2,2-dimethyl-ethoxy)-nicotinic acid amide of melting point 125°-126° C.

reactant | 2-benzylamino-2-methyl-1-propanol | 47 g | C(C1=CC=CC=C1)NC(CO)(C)C | C11H17NO
reactant | sodium hydride | 13.3 g | [H-].[Na+]
reactant | 6-chloronicotinic acid amide | 23.5 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 6-(2-benzylamino-2,2-dimethyl-ethoxy)-nicotinic acid amide | C(C1=CC=CC=C1)NC(COC1=NC=C(C(=O)N)C=C1)(C)C | C17H21N3O2
